US08859773B2
Step 2: 5-bromo-2-fluoro-N-methylbenzothioamide
A mixture of 5-bromo-2-fluoro-N-methylbenzamide (500 mg, 2 mmol) and Lawesson's reagent (872 mg, 2.16 mmol) in toluene (10 mL) was heated to 100° C. and stirred for 3.5 hours. The reaction was cooled to room temperature, diluted with toluene, and filtered. The filtrate was concentrated and purified by flash column chromatography (0-20% ethyl acetate/heptanes) to give the title compound (494 mg, 92%) as a yellow oil that solidified upon standing. +ESI (M+H+1) 250.1; 1H NMR (400 MHz, CDCl3, δ): 8.20 (dd, J=6.93, 2.63 Hz, 1H), 8.06 (br. s., 1H), 7.47 (ddd, J=8.73, 4.44, 2.63 Hz, 1H), 6.95 (dd, J=11.12, 8.78 Hz, 1H), 3.32 (dd, J=4.88, 0.78 Hz, 3H).

reactant | 5-bromo-2-fluoro-N-methylbenzamide | 2 mmol, 500 mg | BrC=1C=CC(=C(C(=O)NC)C1)F | C8H7BrFNO
reactant | Lawesson's reagent | 2.16 mmol, 872 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-fluoro-N-methylbenzothioamide | 494 mg, 92% | BrC=1C=CC(=C(C(NC)=S)C1)F | C8H7BrFNS
